US20010021718A1
tert-Butyl (3R)-6-cyclohexyl-3-{3-[(2-ethoxy-1-methyl-2-oxoethoxy)methyl]-1,2,4-oxadiazol-5-yl}hexanoate
A suspension of sodium hydride 60% suspension in mineral oil (18 mg, 0.45 mmol) in anhydrous tetrahydrofuran (1 ml) was cooled to 0° C. and treated with a solution of tert-butyl (3R)-6-cyclohexyl-3-[3-(hydroxymethyl)-1,2,4-oxadiazol-5-yl]hexanoate (Preparation 85) (142 mg, 0.40 mmol) in anhydrous tetrahydrofuran (1 ml) and stirred under a nitrogen atmosphere for 0.5 hours. Ethyl 2-bromopropionate (37 μl, 0.33 mmol) was added and the mixture was stirred for 2 days, being allowed to warm to room temperature over this time. The reaction mixture was diluted with ethyl acetate and washed with water and brine, dried over anhydrous sodium sulphate, filtered and the solvent removed under reduced pressure. The oil was purified by column chromatography on silica gel eluting with a gradient system of pentane : ethyl acetate (99:1) to pentane:ethyl acetate (0:100) to afford the title compound as a colourless oil (90 mg).

reactant | sodium hydride | [H-].[Na+]
reactant | tert-butyl (3R)-6-cyclohexyl-3-[3-(hydroxymethyl)-1,2,4-oxadiazol-5-yl]hexanoate | 0.40 mmol, 142 mg | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)CO | C19H32N2O4
reactant | Ethyl 2-bromopropionate | 0.33 mmol, 37 μl | BrC(C(=O)OCC)C | C5H9BrO2
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl (3R)-6-cyclohexyl-3-{3-[(2-ethoxy-1-methyl-2-oxoethoxy)methyl]-1,2,4-oxadiazol-5-yl}hexanoate | 90 mg | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)COC(C(=O)OCC)C | C24H40N2O6
